US08431525B2
5-(4-Acetoxyphenyl)-3-benzyl-2-bis(benzylsulfonyl)aminopyrazine (c-20) (435 mg, 694 μmol) was dissolved in methanol (8 mL) and to this was added 10% (w/v) aqueous solution of sodium hydroxide (1.9 mL) while stirring at room temperature, and stirred at 65° C. for 9.5 h. After cooling to room temperature, to this was added 2 M hydrochloric acid to stop the reaction and extracted twice with ethyl acetate. The organic layer was washed with saturated brine and then dried over anhydrous sodium sulfate. After removing anhydrous sodium sulfate by filtration, the filtrate was concentrated under reduced pressure with a rotary evaporator. The residue was purified by column chromatography (35 g, n-hexane/ethyl acetate=3/1→2/1) to give 3-benzyl-2-benzylsulfonylamino-5-(4-hydroxyphenyl)pyrazine (h-coelenterasulfonamide) (c-15) as a pale yellow solid (286 mg, 95.6%). Rf=0.27 (n-hexane/ethyl acetate=3/2). Mp. 144-147° C. (dec.). UV (MeOH) λmax (log ε) 336 (4.06), 290 (4.23), 277.5 (4.25). UV (pH 7.4 PB) λmax (log ε) 351.5 (4.09), 283 (4.34). 1H NMR (400 MHz, DMSO-d6) δ 4.22 (s, 2H), 4.91 (s, 2H), 6.83-6.88 (AA′BB′, 2H), 7.14-7.20 (m, 1H), 7.22-7.29 (m, 4H), 7.36 (s, 5H), 7.86-7.93 (AA′BB′, 2H), 8.83 (s, 1H), 9.81 (s, 1H), 10.40 (s, 1H). 13C NMR (75.5 MHz, DMSO-d6) δ 38.0, 59.6, 115.8 (2C), 126.2, 126.5, 127.7, 128.28 (2C), 128.33 (2C), 128.5 (2C), 128.9 (2C), 129.9, 130.9 (2C), 136.0, 138.2, 144.2, 145.8, 146.5, 158.8. IR (KBr, cm−1) 527, 542, 604, 698, 835, 893, 912, 926, 935, 1117, 1130, 1188, 1213, 1244, 1267, 1321, 1402, 1452, 1495, 1516, 1595, 1609, 3055, 3221, 3522. HRMS (FAB+) m/z 432.1385 (M+H, C24H22N3O3S requires 432.1382).

reactant | 5-(4-Acetoxyphenyl)-3-benzyl-2-bis(benzylsulfonyl)aminopyrazine | 694 μmol, 435 mg | C(C)(=O)OC1=CC=C(C=C1)C=1N=C(C(=NC1)N(S(=O)(=O)CC1=CC=CC=C1)S(=O)(=O)CC1=CC=CC=C1)CC1=CC=CC=C1 | C33H29N3O6S2
reactant | sodium hydroxide | 1.9 mL | [OH-].[Na+]
reactant | hydrochloric acid | 2 M | Cl | ClH
solvent | methanol | 8 mL | CO | CH4O
product | 3-benzyl-2-benzylsulfonylamino-5-(4-hydroxyphenyl)pyrazine | 286 mg, 95.6% | C(C1=CC=CC=C1)C=1C(=NC=C(N1)C1=CC=C(C=C1)O)NS(=O)(=O)CC1=CC=CC=C1 | C24H21N3O3S
